US04753950
4-Benzylamino-7,8-dihydrothieno[2,3-b]quinolin-5(6H)-one
4-Amino-7,8-dihydrothieno[2,3-b]quinolin-5(6H)-one (6.21 g) was dissolved in 60 ml of dimethylsulfoxide (DMSO). Potassium hydroxide (2.3 g, calculated as 85%), which had been pulverized under pentane, was added to the reaction mixture. After 30 minutes 5.0 g of benzyl bromide was added, and after an additional 30 minutes, 1.0 g of potassium hydroxide and 2.0 g of benzyl bromide were added. After a total reaction time of 90 minutes, 200 ml of water was added to the reaction mixture, causing a gummy precipitate to separate. The crude product was collected by filtration and purified by flash chromatography (10% ethyl acetate/dichloromethane) followed by recrystallization from ethyl acetate. Obtained in this manner was 2.35 g of analytically pure product, mp 159°-160°.

reactant | 4-Amino-7,8-dihydrothieno[2,3-b]quinolin-5(6H)-one | 6.21 g | NC1=C2C(=NC=3CCCC(C13)=O)SC=C2 | C11H10N2OS
reactant | Potassium hydroxide | 2.3 g | [OH-].[K+]
reactant | benzyl bromide | 5.0 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | benzyl bromide | 2.0 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 200 ml | O | H2O
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 4-Benzylamino-7,8-dihydrothieno[2,3-b]quinolin-5(6H)-one | C(C1=CC=CC=C1)NC1=C2C(=NC=3CCCC(C13)=O)SC=C2 | C18H16N2OS
